### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/Birational): composition of rational maps

### PR DESCRIPTION
**Pull request by justus-springer**
Define composition of partial and rational maps.

- [x] depends on: #39442
- [x] depends on: #39443
- [x] depends on: #39317
- [x] depends on: #40189

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/OpenImmersion.lean [hunk 1]
```diff
@@ -169,6 +169,10 @@ lemma id_image {X : Scheme} (U : X.Opens) : 𝟙 X ''ᵁ U = U :=
 lemma inv_image {X Y : Scheme} (e : X ≅ Y) (U : Y.Opens) : e.inv ''ᵁ U = e.hom ⁻¹ᵁ U :=
   TopologicalSpace.Opens.ext <| (Scheme.homeoOfIso e.symm).toEquiv.image_eq_preimage_symm _
 
+@[simp]
+lemma inv_preimage {X Y : Scheme} (e : X ≅ Y) (U : X.Opens) : e.inv ⁻¹ᵁ U = e.hom ''ᵁ U :=
+  (inv_image e.symm U).symm
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OpenImmersion.lean]: I am not so sure this should be `simp`. While `e.hom` is maybe slightly better than `e.inv`, `⁻¹ᵁ` is usually better than `''ᵁ`.

File: Mathlib/AlgebraicGeometry/Birational/RationalMap.lean [hunk 2]
```diff
@@ -387,6 +425,9 @@ def RationalMap.compHom (f : X ⤏ Y) (g : Y ⟶ Z) : X ⤏ Z := by
     PartialMap.compHom_hom] at e ⊢
   rw [reassoc_of% e]
 
+lemma RationalMap.id_compHom (f : X ⟶ Y) :
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/RationalMap.lean]:
```suggestion
@[simp]
lemma RationalMap.compHom_id (f : X ⟶ Y) :
```

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Birational/RationalMap.lean]: Also, the proof is def-eq abusing the fact that `Category.id_comp` is true by `rfl` in `Scheme`, right? Could you please check if there is a better (and not much harder) proof?

File: Mathlib/AlgebraicGeometry/Birational/RationalMap.lean [hunk 3]
```diff
@@ -226,20 +244,37 @@ def equiv (f g : X.PartialMap Y) : Prop :=
...
+  dsimp at e₁ e₂
+  simp only [restrict_domain, restrict_hom, ← X.homOfLE_homOfLE (U := W₁ ⊓ W₂) inf_le_left hW₁l,
+    Category.assoc, e₁, ← X.homOfLE_homOfLE (U := W₁ ⊓ W₂) inf_le_right hW₂r, ← e₂]
+  simp only [homOfLE_homOfLE_assoc]
+
 set_option backward.defeqAttrib.useBackward true in
 lemma equivalence_rel : Equivalence (@Scheme.PartialMap.equiv X Y) where
-  refl f := ⟨f.domain, f.dense_domain, by simp⟩
-  symm {f g} := by
-    intro ⟨W, hW, hWl, hWr, e⟩
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/RationalMap.lean]: Is this only for putting the attributes? Does `attribute [trans] equivalence_rel.trans` not work?

**Review by chrisflav — COMMENTED** [review]
Only some brief comments, will try to have a closer look when you merged master.

File: Mathlib/AlgebraicGeometry/Birational/RationalMap.lean (hunk 3 above)
Comment (justus-springer) [reply Mathlib/AlgebraicGeometry/Birational/RationalMap.lean]: I think I did this so I could use dot notation in the proof of `RationalMap.comp_assoc` in the other file. `attribute [trans] equivalence_rel.trans` doesn't seem to work, since `equivalence_rel` is a lemma (not a def), so `equivalence_rel.trans` is not a named constant, but elaborates to `Equivalence.trans equivalence_rel`.

File: Mathlib/AlgebraicGeometry/Birational/RationalMap.lean (hunk 2 above)
Comment (justus-springer) [reply Mathlib/AlgebraicGeometry/Birational/RationalMap.lean]: You're right, and this is already happening for `PartialMap.id_compHom`. I exchanged the `rfl` proofs to something more explicit.

The name `id_compHom` should be correct though, right? The proof uses `Category.id_comp`, and we also have `PartialMap.compHom_id` where the identity is composed with on the right.

File: Mathlib/AlgebraicGeometry/Birational/Composition.lean [hunk 4]
```diff
@@ -0,0 +1,222 @@
...
+lemma comp_restrict_left (f : X.PartialMap Y) [IsDominant f.hom] (U : X.Opens)
+    (hU : Dense (U : Set X)) (hU' : U ≤ f.domain) (g : Y.PartialMap Z) :
+    (f.restrict U hU hU').comp g = (f.comp g).restrict (f.domain.ι ''ᵁ f.hom ⁻¹ᵁ g.domain ⊓ U)
+      ((f.comp g).dense_domain.inter_of_isOpen_right hU U.2) inf_le_left := by
+  ext1
+  · simp only [comp_domain, restrict_domain, restrict_hom, Hom.comp_preimage,
+      ι_image_homOfLE_eq_ι_image_inf]
+  · simp only [comp_hom, comp_domain, restrict_hom, restrict_domain, Hom.comp_preimage,
+      morphismRestrict_comp, Category.assoc, isoOfEq_hom, homOfLE_homOfLE_assoc,
+      isoImage_ι_inv_morphismRestrict_homOfLE_assoc]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Composition.lean]: We prefer to not squeeze terminal `simps`:
```suggestion
  ext
  · simp [ι_image_homOfLE_eq_ι_image_inf]
  · simp [morphismRestrict_comp, isoImage_ι_inv_morphismRestrict_homOfLE_assoc, isoOfEq_hom]
```

File: Mathlib/AlgebraicGeometry/Birational/Composition.lean [hunk 5]
```diff
@@ -0,0 +1,222 @@
...
+    f.comp (g.restrict V hV hV') = (f.comp g).restrict
+      (f.domain.ι ''ᵁ (f.hom ⁻¹ᵁ V)) ((f.domain.ι ''ᵁ f.hom ⁻¹ᵁ V).2.dense <| by
+        simpa [← Set.nonempty_preimage_iff] using
+          f.hom.denseRange.inter_open_nonempty _ V.2 hV.nonempty)
+      (f.domain.ι.image_mono (f.hom.preimage_mono hV')) := by
+  ext1
+  · rfl
+  · simp only [comp_domain, restrict_domain, comp_hom, restrict_hom, isoOfEq_rfl, Iso.refl_hom,
+      Category.id_comp, ← f.domain.ι.isoImage_inv_homOfLE_assoc _ _ (f.hom.preimage_mono hV'),
+      ← morphismRestrict_homOfLE_assoc f.hom _ _ hV']
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Composition.lean]:
```suggestion
  ext
  · simp
  · simp [← f.domain.ι.isoImage_inv_homOfLE_assoc _ _ (f.hom.preimage_mono hV'),
      ← morphismRestrict_homOfLE_assoc f.hom _ _ hV']
```

File: Mathlib/AlgebraicGeometry/Birational/Composition.lean [hunk 6]
```diff
@@ -0,0 +1,222 @@
...
+/-- Composition of partial maps. The domain of `f.comp g` is the preimage of `g.domain` under `f`,
+viewed as an open subscheme of `X`. Requires `f.hom` to be dominant so that the domain is dense. -/
+@[simps]
+noncomputable def comp (f : X.PartialMap Y) [IsDominant f.hom] (g : Y.PartialMap Z) :
+    X.PartialMap Z where
+  domain := f.domain.ι ''ᵁ f.hom ⁻¹ᵁ g.domain
+  dense_domain := (f.domain.ι ''ᵁ f.hom ⁻¹ᵁ g.domain).2.dense <| by
+    simpa [← Set.nonempty_preimage_iff] using
+      f.hom.denseRange.inter_open_nonempty _ g.domain.2 g.dense_domain.nonempty
+  hom := (f.domain.ι.isoImage _).inv ≫ (f.hom ∣_ g.domain) ≫ g.hom
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Composition.lean]:
```suggestion
  hom := (f.domain.ι.isoImage _).inv ≫ f.hom ∣_ g.domain ≫ g.hom
```

File: Mathlib/AlgebraicGeometry/Birational/Composition.lean [hunk 7]
```diff
@@ -0,0 +1,222 @@
...
+lemma comp_assoc {X₁ X₂ X₃ Y : Scheme.{u}} [PreirreducibleSpace X₁] [IrreducibleSpace X₂]
+    [Nonempty X₃] (f : X₁.PartialMap X₂) [IsDominant f.hom] (g : X₂.PartialMap X₃)
+    [IsDominant g.hom] (h : X₃.PartialMap Y) :
+    (f.comp g).comp h = f.comp (g.comp h) := by
+  ext1
+  · simp_rw [comp_domain, comp_hom, ← Category.assoc, Hom.comp_preimage, Hom.inv_preimage,
+      ← Hom.comp_image, Hom.isoImage_hom_ι, Hom.comp_image, image_morphismRestrict_preimage]
+  · simp_rw [comp_hom, comp_domain, morphismRestrict_comp,
+      morphismRestrict_ι_image_ι_isoImage_inv_assoc, isoOfEq_hom, comp_hom, Hom.comp_preimage,
+      Category.assoc]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Composition.lean]: Less explicitly named lemmas:
```suggestion
  · dsimp
    simp_rw [morphismRestrict_comp, morphismRestrict_ι_image_ι_isoImage_inv_assoc,
      Hom.comp_preimage, Category.assoc]
```

File: Mathlib/AlgebraicGeometry/Birational/Composition.lean [hunk 8]
```diff
@@ -0,0 +1,222 @@
...
+  dsimp only [comp_domain, comp_hom]
+  have := IsZariskiLocalAtTarget.restrict ‹IsDominant f.hom› g.domain
+  infer_instance
+
+set_option backward.defeqAttrib.useBackward true in
+lemma comp_assoc {X₁ X₂ X₃ Y : Scheme.{u}} [PreirreducibleSpace X₁] [IrreducibleSpace X₂]
+    [Nonempty X₃] (f : X₁.PartialMap X₂) [IsDominant f.hom] (g : X₂.PartialMap X₃)
+    [IsDominant g.hom] (h : X₃.PartialMap Y) :
+    (f.comp g).comp h = f.comp (g.comp h) := by
+  ext1
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Composition.lean]:
```suggestion
  ext
```

File: Mathlib/AlgebraicGeometry/Birational/Composition.lean [hunk 9]
```diff
@@ -0,0 +1,222 @@
...
+  · simp_rw [comp_hom, comp_domain, morphismRestrict_comp,
+      morphismRestrict_ι_image_ι_isoImage_inv_assoc, isoOfEq_hom, comp_hom, Hom.comp_preimage,
+      Category.assoc]
+    conv_lhs => rw [← Category.assoc]
+    conv_rhs => rw [← Category.assoc, ← Category.assoc, ← Category.assoc]
+    congr 1
+    simp [← cancel_mono (Opens.ι _)]
+
+set_option backward.defeqAttrib.useBackward true in
+lemma comp_toPartialMap (f : X.PartialMap Y) [IsDominant f.hom] (g : Y ⟶ Z) :
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Composition.lean:134]:
```suggestion
@[simp]
lemma comp_toPartialMap (f : X.PartialMap Y) [IsDominant f.hom] (g : Y ⟶ Z) :
```

File: Mathlib/AlgebraicGeometry/Birational/Composition.lean [hunk 10]
```diff
@@ -0,0 +1,222 @@
...
+end PartialMap
+
+namespace RationalMap
+
+/-- Composition of rational maps. Requires `f` to be dominant, so that we may choose
+a dominant representative. -/
+noncomputable def comp (f : X ⤏ Y) [f.IsDominant] (g : Y ⤏ Z) : X ⤏ Z :=
+  Quotient.liftOn g (PartialMap.toRationalMap ∘ f.representative.comp) <| fun _ _ h ↦ by
+    rw [Function.comp_apply, Function.comp_apply, PartialMap.toRationalMap_eq_iff]
+    exact PartialMap.comp_equiv_of_equiv_right _ h
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Composition.lean:156]: Can you use [Quotient.liftOn₂](https://leanprover-community.github.io/mathlib4_docs/Init/Core.html#Quotient.liftOn%E2%82%82) here instead of using `f.representative`? It should give better def-eqs.

File: Mathlib/AlgebraicGeometry/Birational/Composition.lean [hunk 11]
```diff
@@ -0,0 +1,222 @@
...
+
+set_option backward.defeqAttrib.useBackward true in
+instance isDominant_comp_hom (f : X.PartialMap Y) [IsDominant f.hom] (g : Y.PartialMap Z)
+    [IsDominant g.hom] : IsDominant (f.comp g).hom := by
+  dsimp only [comp_domain, comp_hom]
+  have := IsZariskiLocalAtTarget.restrict ‹IsDominant f.hom› g.domain
+  infer_instance
+
+set_option backward.defeqAttrib.useBackward true in
+lemma comp_assoc {X₁ X₂ X₃ Y : Scheme.{u}} [PreirreducibleSpace X₁] [IrreducibleSpace X₂]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Composition.lean:117]: Given that `Category.assoc` is `simp`, maybe this also makes sense?
```suggestion
@[simp]
lemma comp_assoc {X₁ X₂ X₃ Y : Scheme.{u}} [PreirreducibleSpace X₁] [IrreducibleSpace X₂]
```

File: Mathlib/AlgebraicGeometry/Birational/RationalMap.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Birational/RationalMap.lean]: Well `CategoryStruct.comp` is an infix notation, so we name it infix. `PartialMap.compHom` is not a notation so strictly speaking the naming convention would dictate a different name. But I also see the point that `compHom_id` is slightly confusing, so let's keep the name.

File: Mathlib/AlgebraicGeometry/Birational/RationalMap.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Birational/RationalMap.lean]: Oh right, my bad.

File: Mathlib/AlgebraicGeometry/Birational/Composition.lean (hunk 10 above)
Comment (justus-springer) [reply Mathlib/AlgebraicGeometry/Birational/Composition.lean:156]: Unfortunately not: For that I would need to have `PartialMap X Y -> PartialMap Y Z -> RationalMap X Z`, but composition is only defined when the first argument is dominant, so we also need the `[f.IsDominant]` typeclass assumption.

Comment (justus-springer) [reply Mathlib/AlgebraicGeometry/Birational/Composition.lean:156]: Or maybe there's a different way I'm not seeing?

File: Mathlib/AlgebraicGeometry/Birational/Composition.lean (hunk 4 above)
Comment (justus-springer) [reply Mathlib/AlgebraicGeometry/Birational/Composition.lean]: Thanks, for some reason I thought it was necessary to restrict the available simp lemmas here, but apparently I was wrong.

File: Mathlib/AlgebraicGeometry/Birational/Composition.lean (hunk 10 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Birational/Composition.lean:156]: I suppose you could define `DominantPartialMap` with the lifted equivalence relation and define `DominantPartialMap X Y -> PartialMap Y Z -> RationalMap X Z`. I assume you have worked more with this definition: Did you encounter any annoyances because of the missing def-eq? If not, let's keep it like this and just add a comment saying "If better def-eqs are required, consider refactoring this using `Quotient.liftOn_2` using a custom `DominantPartialMap` type."

**Review by chrisflav — APPROVED** [review]
Modulo the remaining question above, LGTM!

File: Mathlib/AlgebraicGeometry/Birational/Composition.lean (hunk 10 above)
Comment (justus-springer) [reply Mathlib/AlgebraicGeometry/Birational/Composition.lean:156]: I haven't noticed any problems with missing def-eqs so far. Yes, I can add that comment.

**Comment by chrisflav** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
